US06727264B1
4-CHLORO-N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-1,3-DIMETHYL-1H-PYRAZOLO[3,4-B]PYRIDINE-5-CARBOXAMIDE:
Prepared by Procedure Q1 and Scheme AC using N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 4-chloro-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbonyl chloride: ESMS m/e: 587.3 (M+H)+.

reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
reactant | 4-chloro-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbonyl chloride | ClC1=C2C(=NC=C1C(=O)Cl)N(N=C2C)C | C9H7Cl2N3O
product | 4-CHLORO-N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-1,3-DIMETHYL-1H-PYRAZOLO[3,4-B]PYRIDINE-5-CARBOXAMIDE | ClC1=C2C(=NC=C1C(=O)N[C@@H](CCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C1=CC=CC=C1)N(N=C2C)C | C33H39ClN6O2
